### PR TITLE
[Merged by Bors] - chore(Algebra/Module): remove some `backward.privateInPublic`

### PR DESCRIPTION
**Pull request by wwylele**
---

[Open in Gitpod](https://gitpod.io/from-referrer/)

### CODE REVIEW

File: Mathlib/Algebra/Module/Submodule/Lattice.lean [hunk 1]
```diff
@@ -184,14 +184,6 @@ instance : InfSet (Submodule R M) :=
...
       smul_mem' := by simp +contextual [smul_mem] }⟩
 
-set_option backward.privateInPublic true in
-private theorem sInf_le' {S : Set (Submodule R M)} {p} : p ∈ S → sInf S ≤ p :=
-  Set.biInter_subset_of_mem
-
-set_option backward.privateInPublic true in
-private theorem le_sInf' {S : Set (Submodule R M)} {p} : (∀ q ∈ S, p ≤ q) → p ≤ sInf S :=
-  Set.subset_iInter₂
-
```
Comment (dagurtomas) [inline Mathlib/Algebra/Module/Submodule/Lattice.lean:194]: You should deprecate these

File: Mathlib/Algebra/Module/GradedModule.lean [hunk 2]
```diff
@@ -136,13 +134,11 @@ private theorem mul_smul' [DecidableEq ιA] [DecidableEq ιB] [GSemiring A] [Gmo
...
 
-set_option backward.privateInPublic true in
-set_option backward.privateInPublic.warn false in
 /-- The `Module` derived from `gmodule A M`. -/
 instance module [DecidableEq ιA] [DecidableEq ιB] [GSemiring A] [Gmodule A M] :
     Module (⨁ i, A i) (⨁ i, M i) where
-  one_smul := one_smul' _ _
-  mul_smul := mul_smul' _ _
+  one_smul := by exact one_smul' _ _
+  mul_smul := by exact mul_smul' _ _
```
Comment (dagurtomas) [inline Mathlib/Algebra/Module/GradedModule.lean:141]: Why is `by exact` needed here?

File: Mathlib/Algebra/Module/Submodule/Lattice.lean (hunk 1 above)
Comment (wwylele) [reply Mathlib/Algebra/Module/Submodule/Lattice.lean:194]: These are private. I don't think we need to deprecate private items?

File: Mathlib/Algebra/Module/GradedModule.lean (hunk 2 above)
Comment (wwylele) [reply Mathlib/Algebra/Module/GradedModule.lean:141]: If I understand correctly, the new module system no longer allow public definitions (here the members of public instances) to contain private items, but `by` is allowed to invoke private lemma inside

**Comment by dagurtomas** [comment]
Thanks!

maintainer merge

**Review by riccardobrasca — COMMENTED** [review]
Thanks!

bors merge
